* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 330.00k
R2 N002 N003 220.00k
R3 N002 0 4.70
R4 N003 N004 18.00
R5 N005 N004 470.00
R6 0 N004 2.70k
R7 N003 N005 270.00k
V1 0 N001 30

.end