* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R1 N001 N002 150.00k
R2 N002 N003 820.00k
R3 N002 0 1.20k
R4 N003 N004 15.00k
R5 N005 N004 3.90k
R6 0 N004 18.00
R7 N003 N005 270.00
V1 0 N001 30

.end